US07517889B2
A solution of (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(3,4-difluoro-phenyl)-ethyl]-amine (1.6 g), 3-cyano-phenylboronic acid (1.5 g), Cs2CO3 (8.3 g) and tetrakis(triphenylphosphine)palladium (0) (45 mg) in water (8 mL) and DME (32 mL) is heated at 90° C. for 16 hours. The solution is poured into water and extracted with EtOAc (2×200 mL). The combined extract is dried over sodium sulfate, filtered, evaporated in vacuo and chromatographed on silica gel eluting with EtOAc to afford 3-{6-[2-(3,4-difluoro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenol (1.1 g). MS: 379 (M+H); 1H NMR (300 MHz, CDCl3), □8.3 (1H, s); 8.2 (1H, d, J=5.1 Hz); 7.9 (1H, d (J=5.1 Hz)); 7.6 (1H, t); 7-7.2 (4H, m); 6.4 (1H, s); 5 (1H, m); 3.95 (3H, s); 3.7 (2H, t); 3 (2H, t).

reactant | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(3,4-difluoro-phenyl)-ethyl]-amine | 1.6 g | ClC1=CC(=NC(=N1)OC)NCCC1=CC(=C(C=C1)F)F | C13H12ClF2N3O
reactant | 3-cyano-phenylboronic acid | 1.5 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Cs2CO3 | 8.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 8 mL | O | H2O
solvent | DME | 32 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{6-[2-(3,4-difluoro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenol | 1.1 g | FC=1C=C(C=CC1F)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1)O | C19H17F2N3O2
